US07375134B2
A solution of 3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butylamine (1.9 g, 8.8 mmol) and thiazole-2-carboxaldehyde (998 mg, 8.8 mmol) in benzene was refluxed for 3 h using a Dean-Stark trap, during which time water was collected and the remaining residue was evaporated under reduced pressure to get [3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-thiazol-2-ylmethyleneamine as an orange solid.

reactant | 3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butylamine | 8.8 mmol, 1.9 g | CC(CC(C12OCC(CO1)(CO2)C)N)C | C11H21NO3
reactant | thiazole-2-carboxaldehyde | 8.8 mmol, 998 mg | S1C(=NC=C1)C=O | C4H3NOS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | [3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-thiazol-2-ylmethyleneamine | CC(CC(C12OCC(CO1)(CO2)C)N=CC=2SC=CN2)C | C15H22N2O3S
